US08293768B2
Synthesis of 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid
Following the procedure as described in Example 14, making variations as required to replace ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate with ethyl 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate, the title compound was obtained as a colorless solid in 91% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.36 (br s, 1H), 7.41-7.26 (m, 5H), 6.29 (s, 1H), 4.40 (s, 2H), 3.87-3.80 (m, 2H), 3.48-3.41 (m, 2H), 2.40 (s, 3H); MS (ES+) m/z 317.2 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
reactant | ethyl 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | C(C1=CC=CC=C1)N1C(N(CC1)C1=CC(=C(S1)C(=O)OCC)C)=O | C18H20N2O3S
product | 5-(3-benzyl-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | 91% yield | C(C1=CC=CC=C1)N1C(N(CC1)C1=CC(=C(S1)C(=O)O)C)=O | C16H16N2O3S
